US05589478
A mixture of 4-tert-butyl-N-{6-[2-(4-benzyloxyphenoxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzensulfonamide (3.95 g), 10% palladiumcarbon (1.5 g) and ethanol-tetrahydrofuran (80 ml-80 ml) is subjected to catalytic hydrogenation at room temperature under hydrogen atmosphere (1 atm) for 24 hours. The catalyst is removed by filtration, and the filtrate is concentrated. The residue is crystallized from ethyl acetate/diisopropyl ether to give 4-tert-butyl-N-{6-[2-(4-hydroxyphenoxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide (3.31 g).

reactant | 4-tert-butyl-N-{6-[2-(4-benzyloxyphenoxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzensulfonamide | 3.95 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=CC=C(C=C1)OCC1=CC=CC=C1 | C36H37N3O5S
catalyst | palladiumcarbon | 1.5 g | [C].[Pd]
solvent | ethanol tetrahydrofuran | 80 ml-80 ml | C(C)O.O1CCCC1
product | 4-tert-butyl-N-{6-[2-(4-hydroxyphenoxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide | 3.31 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=CC=C(C=C1)O | C29H31N3O5S
